US04352818
6 g (24.6 mmol) of 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one and 4.45 g of thionyl chloride are heated to boiling under reflux for 2 hours in 50 ml of benzene. The mixture is evaporated to dryness, the residue is taken up in chloroform and washed with 2 N sodium hydroxide. The organic phase is dried over magnesium sulphate and, after removal of the solvent, there is obtained 3-(chloromethyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 277°-280°.

reactant | 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 24.6 mmol, 6 g | OCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C13H13N3O2
reactant | thionyl chloride | 4.45 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-(chloromethyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C13H12ClN3O
